US04051173
A solution of 10 g. of 2-[4-(1-methyl-1,2,3,4-tetrahydro-4-quinolyl)-phenoxy]-phenylacetic acid ethyl ester in 25 ml. of the THF is added dropwise, over the course of 30 minutes, to a solution of 1.1 g. of LiAlH4 in 25 ml. of THF. The mixture is boiled for 3 hours, cooled, a mixture of 10 ml. of water and 40 ml. of THF and then 10 ml. of concentrated sodium hydroxide solution are added dropwise, the phases are separated and the organic phase is evaporated to give 2-phenyl-2-[4-(1-methyl-1,2,3,4-tetrahydro-4-quinolyl)phenoxy)-ethanol; nD20 1.6085. Hydrochloride, softens above 75° C.

reactant | 2-[4-(1-methyl-1,2,3,4-tetrahydro-4-quinolyl)-phenoxy]-phenylacetic acid ethyl ester | C(C)OC(CC1=C(C=CC=C1)OC1=CC=C(C=C1)C1CCN(C2=CC=CC=C12)C)=O | C26H27NO3
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-phenyl-2-[4-(1-methyl-1,2,3,4-tetrahydro-4-quinolyl)phenoxy)-ethanol | C1(=CC=CC=C1)C(CO)OC1=CC=C(C=C1)C1CCN(C2=CC=CC=C12)C | C24H25NO2
